US05464811
A solution of methyl N-(2-fluoro-4-chloro-5-isobutyloxycarbonyloxyphenyl)carbamate (5.37 g, 16.8 mmol) prepared by the process as shown in Reference Example 3, 3-methylcyclopentyl p-toluenesulfonate (5.0 g, 20.2 mmol) and potassium carbonate (2.32 g, 16.8 mmol) in methanol (50 ml) was stirred for 5 hours under refluxing. After completion of the reaction, the reaction mixture was poured into 1N hydrochloric acid (100 ml), and the mixture was extracted with ethyl acetate (50 ml×3 times). The organic layer was dried, and the solvent was distilled off under reduced pressure to obtain methyl N-{2-fluoro-4-chloro-5-(3-methylcyclopentyl)oxyphenyl}carbamate as grey white crystals (3.81 g, 12.6 mmol, 75.2% yield).

reactant | methyl N-(2-fluoro-4-chloro-5-isobutyloxycarbonyloxyphenyl)carbamate | 16.8 mmol, 5.37 g | FC1=C(C=C(C(=C1)Cl)OC(=O)OCC(C)C)NC(OC)=O | C13H15ClFNO5
reactant | 3-methylcyclopentyl p-toluenesulfonate | 20.2 mmol, 5.0 g | C1(=CC=C(C=C1)S(=O)(=O)OC1CC(CC1)C)C | C13H18O3S
reactant | potassium carbonate | 16.8 mmol, 2.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | methyl N-{2-fluoro-4-chloro-5-(3-methylcyclopentyl)oxyphenyl}carbamate | 12.6 mmol, 3.81 g, 75.2% yield | FC1=C(C=C(C(=C1)Cl)OC1CC(CC1)C)NC(OC)=O | C14H17ClFNO3
